US08183246B2
6-[(5,6-Diphenylfuro[2,3-d]pyrimidin-4-yl)amino]hexanoic acid
Dissolve 27.5 mg (0.066 mmol) 6-[(5,6-diphenylfuro[2,3-d]pyrimidin-4-yl)amino]hexanoic acid methyl ester in 0.1 ml methanol, 0.05 ml THF and one drop of water and add 0.09 ml 2.5 M sodium hydroxide solution. Stir the mixture for 1 h at RT and then lightly acidify with 1 N hydrochloric acid. Extract the aqueous phase three times with dichloromethane. Combine the organic phases and dry over magnesium sulphate, concentrate by vacuum evaporation and dry the residue at high vacuum. 25 mg (96.1% of theor.) of the target compound is obtained.

reactant | 6-[(5,6-diphenylfuro[2,3-d]pyrimidin-4-yl)amino]hexanoic acid methyl ester | 0.066 mmol, 27.5 mg | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=CC=C2)C2=CC=CC=C2)=O | C25H25N3O3
reactant | sodium hydroxide | 2.5 M, 0.09 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 0.1 ml | CO | CH4O
solvent | THF | 0.05 ml | C1CCOC1 | C4H8O
catalyst | water | one drop | O | H2O
product | 6-[(5,6-Diphenylfuro[2,3-d]pyrimidin-4-yl)amino]hexanoic acid | C1(=CC=CC=C1)C1=C(OC=2N=CN=C(C21)NCCCCCC(=O)O)C2=CC=CC=C2 | C24H23N3O3
